* YAP MOSFET cell library (v1). ngspice. Parts: docs/cells/design.md

.model IRLML6246 VDMOS(Rg=3 Vto=0.9 Rd=15m Rs=15m Rb=20m Kp=25
+ Lambda=0.05 Cgdmax=150p Cgdmin=15p Cgs=200p Cjo=50p Is=1e-12 N=1.2 BV=20)

.model IRLML6401 VDMOS(pchan Rg=6 Vto=-1 Rd=15m Rs=27m Rb=36m Kp=20
+ Lambda=0.05 Cgdmax=400p Cgdmin=31p Cgs=629p Cjo=120p Is=1e-12 N=1.5 BV=12)

* Discrete SOT-23: bulk tied to source.
.subckt INVERTER in out vdd gnd
M1 out in vdd vdd IRLML6401
M2 out in gnd gnd IRLML6246
.ends INVERTER

.subckt NAND a b y vdd gnd
M1 y a vdd vdd IRLML6401
M2 y b vdd vdd IRLML6401
M3 y a mid mid IRLML6246
M4 mid b gnd gnd IRLML6246
.ends NAND
